US04755323
A solution of 29.5 g. trans-2-fluoro-4-(5-pentyl-1,4-dioxan-2-yl)-benzamide (obtainable from the acid chloride and NH3) in 500 ml. DMF is mixed dropwise at 50°, while stirring, with 65 g. POCl3. After a further one hour stirring, one pours on to ice, works up as usual and obtains trans-2-fluoro-4-(5-pentyl-1,4-dioxan-2-yl)-benzonitrile.

reactant | trans-2-fluoro-4-(5-pentyl-1,4-dioxan-2-yl)-benzamide | FC1=C(C(=O)N)C=CC(=C1)[C@@H]1OC[C@H](OC1)CCCCC | C16H22FNO3
reactant | NH3 | N | H3N
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
solvent | DMF | CN(C)C=O | C3H7NO
product | trans-2-fluoro-4-(5-pentyl-1,4-dioxan-2-yl)-benzonitrile | FC1=C(C#N)C=CC(=C1)[C@@H]1OC[C@H](OC1)CCCCC | C16H20FNO2
